US07576115B2
1) Synthesis of 1-[5-(4-tert-butylphenyl)-1-benzyl-4-hydroxy-1H-pyrazol-3-yl]ethanone
2-Oxopropanal benzylhydrazone (2.314 mmol, 408 mg) synthesized in the same manner as in Reference Synthetic Examples 1 and 2 and (4-tert-butylphenyl)(oxo)acetaldehyde (1.929 mmol, 366.9 mg) synthesized in Reference Synthetic Example 4 were dissolved in acetic acid (9 mL) and stirred at 100° C. for about 6 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel column chromatography (n-hexane/AcOEt=3/1, and 4/1) to give the desired product as a yellow solid (74.1 mg, yield 11%).

reactant | 2-Oxopropanal benzylhydrazone | 2.314 mmol, 408 mg | C(C1=CC=CC=C1)NN=CC(C)=O | C10H12N2O
reactant | (4-tert-butylphenyl)(oxo)acetaldehyde | 1.929 mmol, 366.9 mg | C(C)(C)(C)C1=CC=C(C=C1)C(C=O)=O | C12H14O2
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(4-tert-butylphenyl)-1-benzyl-4-hydroxy-1H-pyrazol-3-yl]ethanone | 74.1 mg, yield 11% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1CC1=CC=CC=C1)C(C)=O)O | C22H24N2O2
